US09403805B2
(2S,4S)-4-Amino-2-(5-methyl-oxazol-2-yl)-pyrrolidine-1-carboxylic acid benzyl ester was prepared from (2S,4R)-4-hydroxy-2-(5-methyl-oxazol-2-yl)-pyrrolidine-1-carboxylic acid benzyl ester in a similar reaction sequence used in the preparation of (2S,4S)-4-amino-2-oxazol-2-yl-pyrrolidine-1-carboxylic acid benzyl ester. MS calcd. for C16H20N3O3 [(M+H)+] 302, obsd. 302.

reactant | (2S,4R)-4-hydroxy-2-(5-methyl-oxazol-2-yl)-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O)C=1OC(=CN1)C | C16H18N2O4
reactant | (2S,4S)-4-amino-2-oxazol-2-yl-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H](C1)N)C=1OC=CN1 | C15H17N3O3
product | (2S,4S)-4-Amino-2-(5-methyl-oxazol-2-yl)-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H](C1)N)C=1OC(=CN1)C | C16H19N3O3
